Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
lamotrigine / lamotrigine / oxcarbazepine / topiramate
 
Attending: ___
 
Chief Complaint:
Seizure monitoring and characterization on EMU.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old right-handed woman with OSA, GERD, and
anxiety/depression, and history of cryptogenic nocturnal
generalized tonic-clonic seizures with first episode ___ years 
ago,
on Vimpat 100mg QAM and 200mg QPM presenting for a scheduled LTM
to further characterize these events. Her most recent EEG in
___ was WNL. Last MRI ___ was negative for seizure focus.
She continues to have breakthrough nocturnal generalized
tonic-clonic seizures, patient suspects that last one in ___ (~3 weeks ago), episode was unwitnessed. Patient states 
that
she woke up in the middle of the night and went to the bathroom,
then does not remember what happened, but she subsequently woke
up on the floor of her bathroom and presumed seizure. She has
been unable to tolerate multiple medications because of side
effects.  So far, she has had either intolerable side effects or
breakthrough seizures on levetiracetam, lamotrigine, zonisamide,
oxcarbazepine, and topiramate.

Her first seizure was on ___ and she has continued to 
have
seizures roughly ___ times a year.  Per the patient's last 
clinic
note, her husband states that during her seizures she is
unresponsive, turns her head to one side (unclear which side),
clenches her hands and keeps them flexed against her chest,
shakes, and has frothing at her mouth.  The patient has no 
memory
of having seizures, however she sates that post seizures she 
will
notice blood on her pillow and bit her tongue and one time woke
up on the floor.  She remains non-responsive for approximately 5
minutes post seizure and is confused for roughly 30 minutes per
her husband.  She denies any aura symptoms including rising
sensation, ___, amais ___, malodorous smells, visual
disturbances or any other indication that a seizure is coming. 
However, looking back she does feel that the nights she had a
seizure she was possibly more tired before going to bed.  

She is currently sleeping alone, and cannot tell me if she has
had other seizures.  Her husband sleeps in another room because
of her snoring.  She denies any daytime episodes of staring, 
loss
of awareness, zoning out, amnesia, stereotyped unusual
sensations, or involuntary movements.  She has not had any
unexplained falls. 
 
In addition, the patient has OSA with significant desaturations
diagnosed via sleep study but the patient is non-compliant with
her CPAP.  Her husband currently sleeps in a different room due
to her snoring.  She only uses it ___ times a week, but she does
note that she has never had a seizure the nights she uses it. 
She
is aware that her CPAP is important to use and will be making a
follow-up appointment with her sleep physician.  Other
co-morbidities include obesity (patient has been unable to lose
weight despite diet and exercise), GERD, and anxiety/depression
for which she takes venlafaxine.  The patient also feels she has
had constant memory and concentration problems ever since her
first seizure and starting AED.

No recent head trauma, no recent febrile illness. No congestion,
cough, diarrhea. Has been taking medications as prescribed
without missing doses. No family h/o seizures. 

SEIZURE SEMIOLOGY:
- Semiology: nocturnal GTC, not preceded by aura, head turns to
the side, hands clenched and flexed against chest, generalized
shaking, unresponsiveness, frothing at mouth, lasts about 5 min, 

and post-ictal obtunded. Occasionally a/w tongue biting. Denies
incontinence during the episodes. Experiences a post-ictal state
lasting ___ characterized by confusion-patient reports she
wakes up with no memory of the seizure, sometimes notices blood
on her pillow or bites on her tongue, and feels very tired. 
There
was one episode she woke up on the floor. 

SEIZURE FREQUENCY:
- First ever seizure: ___
- Seizure history: Seizures ___, 2 in
___, 1 in ___, 1 possible between ___ and ___,
1 on ___ (~3 weeks ago)
- Frequency: ___ per year. 
- Precipitants: possibly fatigue

CURRENT AED regimen:  
Vimpat 100mg QAM and 200mg QPM
   
CURRENT ADVERSE EFFECTS: Concern for memory problems and fatigue
since starting AED.

ADHERENCE: The patient denies missed medication doses.  

PRIOR ANTIEPILEPTIC DRUG / OTHER THERAPY TRIALS: 
-Keppra 100mg QD-stopped in ___ due to increased anxiety,
irritability, diffuse muscle aches, and mild peripheral edema.
-Lamictal XR 600mg QD-mild memory complaints and chronic cough.
-Zonisamide 300mg QD
-Oxcarbazepine 600mg BID-memory problems, cough
-Topiramate

SPECIAL FEATURES:
 Status epilepticus:  N
 Seizure flurries:  N
 Hospitalizations/ ER visits for seizures:  N
Self-injury during seizures:  Tongue biting, patient woke up on
floor one time but did not endorse any bruises.    
Fall risk:  Low

PRECIPITATING FACTORS:
 Stress:  Potentially (patient endorses recent increased
stressors)
 Sleep:  Patient is non-compliant with CPAP and states she has
never had a seizure when using her CPAP
 Sleep deprivation:  Patient is always tired but feels she might
be more tired the nights before she has a seizure.
 Photic:  N
 Alcohol:  N
 Drugs:  N
 Caffeine:  N
 Fever / illness:  N
 Missed medications:  N
 Other:  

EPILEPSY RISK FACTORS:
 Abnormal pregnancy:  N
 Abnormal birth / neonatal:  N
 Abnormal development:  N
 Febrile seizures, simple:  N
 Febrile seizures, complex:  N
 CNS infection:  N
 Mental retardation:  N
 Cerebral palsy:  N
 Head injury (moderate/severe): N
 CNS neoplasm:  N
 CNS malformation:  N
 Neurosurgical procedure:  N 
 Stroke:  N
 Alcohol abuse:  N
 Drug abuse:  N
 Consanguinity:  N
 Family history seizures/epilepsy:  N

Temporal Lobe Epilepsy ROS: Denies rising sensation, ___,
amais ___, malodorous smells. 

 
Past Medical History:
Cryptogenic Seizures 
Depression
Anxiety
GERD
Obesity
Low vitamin D
Left tibialis posterior tendinitis
OSA (non-compliant with CPAP)
 
Social History:
___
Family History:
Mother: arthritis, hypertension, kidney stones, cancer of 
unknown type, hyperglycemia, stroke, and glaucoma.
Father: deceased at age ___ with colon cancer.
Sister: diabetes type 2 and arthritis.
Brother: obesity.
Daughter: anorexia.
Uncle: coronary artery disease.

No family history of seizures or epilepsy disorder.
 
Physical Exam:
PHYSICAL EXAM ON DAY OF DISCHARGE: Admission:

 Vitals: Temp 97.7  BP 128/83  HR 77  RR 16  O2 Sat 96% on RA
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive BS, no masses or organomegaly 
noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

MS: Alert and oriented to person, place, time, date. Speech is 
slightly tangential but appropriate. ___ backwards and serial 
7's correct.  Recall ___ at 5 minutes, remembers last 5 
presidents.  Follows multi-step commands across midline.  
Language including repetition, naming high and low frequency 
objects, and fluency intact.  Correctly identifies difference 
between mistake and lie.  

CN: PERRLA, EOMi, sensation intact to light touch, facial 
muscles intact and symmetric, ___ strength SNC and trap, tongue 
protrudes midline.

Motor: ___ throughout, normal bulk and tone, no drift or 
involuntary movements noted. 

Reflexes: 2+ and symmetric throughout, toes downgoing.

Sensory: Intact to light touch throughout.

Coordination: No dysmetria, finger tapping intact bilaterally 
without slowing.

Gait: Normal initiation and stride.

PHYSICAL EXAM ON DAY OF DISCHARGE:

 
Pertinent Results:
ADMISSION LABS:
___ 10:16AM   GLUCOSE-93 UREA N-11 CREAT-0.6 SODIUM-141 
POTASSIUM-5.0 CHLORIDE-103 TOTAL CO2-29 ANION GAP-9*
___ 10:16AM   estGFR-Using this
___ 10:16AM   ALT(SGPT)-10 AST(SGOT)-13 ALK PHOS-75 TOT 
BILI-0.3
___ 10:16AM   ALBUMIN-4.2 CALCIUM-9.1 PHOSPHATE-3.5 
MAGNESIUM-2.2
___ 10:16AM   WBC-5.8 RBC-4.22 HGB-12.1 HCT-38.6 MCV-92 
MCH-28.7 MCHC-31.3* RDW-12.5 RDWSD-41.6
___ 10:16AM   PLT COUNT-284

EEG:

___:
IMPRESSION: This is a normal video EEG monitoring. There are no 
definite 
epileptiform discharges and no electrographic or clinical 
seizures. This study captures multiple pushbutton activations 
which all appear to be accidental. 

___:
IMPRESSION: This is a normal video EEG monitoring. There is 
normal background activity without focal slowing, epileptiform 
discharges, or electrographic seizures. This study captures 
multiple pushbutton activations which all appear to be 
accidental. 

___:
IMPRESSION: This video EEG monitoring study is abnormal because 
of a single electrographic and clinical seizure, arising from 
the left temporal lobe with secondary generalization, lasting 
1:58, and clinically associated with impaired communication, 
right hand apparent paresthesias versus posturing, and then 
tonic posturing and tonic-clonic jerking. There were no 
epileptiform discharges. 

___:
IMPRESSION: This video EEG monitoring study is a normal. There 
is normal 
background activity without focal slowing, epileptiform 
discharges .This study captures multiple accidental pushbutton 
activations. Compared to prior studies, there are no 
electrographic seizures. 

___:
IMPRESSION: This video EEG monitoring study is normal. There is 
normal 
background activity without focal slowing, epileptiform 
discharges or 
electrographic seizures.This study captures multiple accidental 
pushbutton 
activations. Compared to yesterday's study, this study is 
unchanged. 

___:
IMPRESSION: This is a normal continuous EEG monitoring study. 
There are no 
epileptiform discharges, no electrographic seizures, and no 
intentional 
pushbutton activations or behavioral events. 

___:
IMPRESSION: This is an abnormal continuous EEG monitoring study 
because of 
occasional intermittent left-sided delta slowing in the left 
temporal region, best seen in the subtemporal chain, as well as 
rare left anterior temporal discharges phase reversing at F7, 
F9, and T9. These findings indicate an area of potentially 
epileptogenic cortex with underlying subcortical dysfunction. 
All pushbutton events are accidental and none of the patient's 
typical events are captured. There are no electrographic 
seizures. 

___:
IMPRESSION: This is an abnormal continuous EEG monitoring study 
because of 
occasional intermittent left-sided delta slowing in the left 
temporal region, consistent with intermittent focal dysfunction. 
There are no definite epileptiform discharges and no 
electrographic seizures. There are no intentional pushbutton 
activations. Overall, the study was unchanged from the previous 
day's study. 

___:
IMPRESSION: This is a normal continuous EEG monitoring study. 
There are no 
definite epileptiform discharges and no electrographic seizures. 
There are no intentional pushbutton activations. Overall, there 
were no significant changes from the previous day's study. 

___:
IMPRESSION: This is an abnormal continuous EEG monitoring study 
because of 1 clinical and electrographic seizure described 
above. Electrographically, the seizure arises from the left 
temporal lobe with irregular slowing but then evolves into 
rhythmic delta then theta and spreads across both hemispheres. 
Clinically, this begins with automatisms, right head and eye 
deviation, and then evolves to include posturing and jerking of 
both arms and legs and trunk. The entire event lasts 
approximately 1 minute and 40 seconds. Other than during the 
electrographic seizure, there are no definite epileptiform 
discharges. There are no intentional pushbutton activations. 
Overall, this study is different from previous studies because 
of the electrographic seizure. 

___: Final interpretation pending.

 
Brief Hospital Course:
___ yo R-handed F w/ OSA, GERD, anxiety/depression, and h/o 
nocturnal generalized tonic-clonic seizures with first episode ___ 
years ago, on Vimpat 100mg QAM and 200mg QPM admitted for a 
scheduled LTM to further characterize these events. Patient was 
continued on her home venlafaxine 225mg q AM. Patient was 
enrolled in a trial of IV brivaracetam vs. IV lorazepam for 
treatment of prolonged GTC seizures or seizure clusters. AED's 
stopped on ___. Throughout the admission, patient was sleep 
deprived. She had 2 seizures: one on ___ in AM (1min:58sec), 
another seizure ___ (1min:40sec), did not require rescue. 

Seizure events: 

___:
Patient had a seizure at 7:56am during morning Epilepsy Team 
rounds, patient was laying in bed, was initially answering 
questions appropriately, then became confused, was unable to 
recall her own birth date, then started talking in ___ and 
showing fingers of the R hand as if indicating tingling, then, 
started to have
rhythmic high amplitude movements of the R arm followed by the L 
arm. The head was slightly tilted to the L, gaze was to the R. 
During the episode, patient had perioral cyanosis, desaturation 
to 70%, thus supplemental O2 was provided. The episode lasted 
for 1:58 min followed by falling asleep and loud snoring. O2 
sats
recovered quickly with the supplemental O2. She did not require 
rescue medication.

___:
Seizure began with left hand automatisms followed by eye and 
head deviation up into the right. She then has right arm jerking 
followed by left arm posturing, facial contortion, grunting, 
head deviation to the right.  She then has jerking of her right 
arm which spreads to full body to jerking including both arms, 
legs,
and trunk.  At the end of the event, she appears to be gasping 
for air and then rests quietly.  Electrographically, the event 
begins with left temporal irregular slowing followed by left 
temporal rhythmic delta then theta which then spreads to the 
left central region and quickly generalizes. Seizure lasted 
1min:40sec.

Home AED were restarted on ___ ___. Patient was discharged home 
on home the same AED regimen as she was on prior to admission: 
Vimpat 100mg QAM and 200mg QPM. Plan for outpatient follow-up 
with her Epileptologist Dr. ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.5 mg PO QHS:PRN anxiety 
2. LACOSamide 100 mg PO QAM 
3. LACOSamide 200 mg PO QPM 
4. Venlafaxine XR 75 mg PO DAILY 

 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO QHS:PRN anxiety 
2. LACOSamide 100 mg PO QAM 
3. LACOSamide 200 mg PO QPM 
4. Venlafaxine XR 75 mg PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the neurology service for long term 
monitoring for seizure capture as well as participation in a 
clinical trial. You had two seizures captured that began in the 
left hemisphere. While you are not currently interested in 
surgical intervention, if you are interested in the future, this 
information will be helpful. 

We held your Vimpat during this admission and it was resumed 
before your discharge at its original dose 100mg in the morning 
and 200mg in the evening. 
 
Followup Instructions:
___